US08044068B2
To a mixture of 1-(2-aminophenyl)propan-1-one (CAS1196-28-7) (4.6 g), monobenzyl malonate (7.2 g), and THF (46 mL) were added EDC.HCl (7.1 g) and HOBt.H2O (7.1 g), and the mixture was stirred at room temperature for 14 h and then heated to reflux for 8 h. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and then washed with saturated aqueous sodium hydrogencarbonate and saturated brine. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, then the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=9:1) to obtain benzyl N-(2-propionylphenyl)malonamate (1.8 g).

reactant | 1-(2-aminophenyl)propan-1-one | 4.6 g | NC1=C(C=CC=C1)C(CC)=O | C9H11NO
reactant | monobenzyl malonate | 7.2 g | C(CC(=O)[O-])(=O)OCC1=CC=CC=C1
reactant | EDC.HCl | 7.1 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | H2O | 7.1 g | O | H2O
solvent | THF | 46 mL | C1CCOC1 | C4H8O
product | benzyl N-(2-propionylphenyl)malonamate | 1.8 g | C(CC)(=O)C1=C(C=CC=C1)NC(CC(=O)OCC1=CC=CC=C1)=O | C19H19NO4
